US05407897
2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid.
The composition according to claim 45 wherein the imidazolinone compound is 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid and the safener compound is selected from the group consisting of the diammonium salt of 4-carboxy-3,4-dihydro-2H-1-benzopyran-4-acetic acid and 4-carboxy-3,4-dihydro-2H-1-benzopyran-4-acetic acid.

reactant | imidazolinone | C1C(=O)NC=N1 | C3H4N2O
reactant | 5-ethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid | C(C)C=1C=NC(=C(C(=O)O)C1)C=1NC(C(N1)(C)C(C)C)=O | C15H19N3O3
reactant | 4-carboxy-3,4-dihydro-2H-1-benzopyran-4-acetic acid | C(=O)(O)C1(CCOC2=C1C=CC=C2)CC(=O)O | C12H12O5
product | 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-5-methylnicotinic acid | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)O)C=C(C=N1)C)C | C14H17N3O3
